US06258961B1
Methyl(2-chlorophenyl)(6,7-dihydro-4H-thieno[3,2-c]pyridin-5-yl)acetate hydrochloride hydrate
To 28.4 g (0.082 mol) of methyl [2-(2-thienyl)ethylamino](2-chlorophenyl)acetate hydrochloride, prepared according to example 9 or 10, are added 50 ml of 1,2-dichloroethane and the solution of 7.5 g (0.09 mol) of sodium hydrogen carbonate in 100 ml of water. The mixture is stirred well, the phases are separated, the aqueous phase is washed with 2×30 ml of 1,2-dichloroethane, the combined organic layer is dried over anhydrous sodium sulfate and the solvent is removed in vacuo. The residual 25 g material (acetate base) is dissolve din 90 ml of formic acid, to the solution 4 g (0.13 mol) of para formaldehyde is added and the mixture is stirred at 50° C. for 20 minutes. The majority of the formic acid is then distilled off in vacuo, the residue is dissolved in the mixture of 100 ml of water and 100 ml of 1,2-dichloroethane, the phases are separated, the aqueous phase is extracted again with 30 ml of 1,2-dichloroethane, the combined organic phase is shaken well with 100 ml of 5% sodium hdyrogen carbonate solution, the phases are separated and the organic phase is dried over anhydrous sodium sulfate and evaporated in vacuo. The residue is dissolved in 45 ml of acetone and to the solution 6.5 ml (0.077 mol) of conc. hydrochloric acid is added at 5-10° C., under cooling. The product slowly crystallizes. The mixture is stirred for 1 hour at 0-10° C., then the crystals are filtered off, washed with 2×10 ml of acetone and dried. Weight: 26.7 g (theoretical: 30.8 g ) Yield: 86.6%, mp.: 138-140° C. (literature mp: 130-140° C.). The product was identified by elemental analysis, IR spectrum, 1H-NMR investigation and melting point determination.

reactant | methyl [2-(2-thienyl)ethylamino](2-chlorophenyl)acetate hydrochloride | 0.082 mol, 28.4 g | Cl.S1C(=CC=C1)CCNC(C(=O)OC)C1=C(C=CC=C1)Cl
reactant | sodium hydrogen carbonate | 0.09 mol, 7.5 g | C(O)([O-])=O.[Na+]
reactant | para formaldehyde | 0.13 mol, 4 g | C=O | CH2O
reactant | hydrochloric acid | 0.077 mol, 6.5 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | acetone | 45 ml | CC(=O)C | C3H6O
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | Methyl(2-chlorophenyl)(6,7-dihydro-4H-thieno[3,2-c]pyridin-5-yl)acetate hydrochloride hydrate | Yield: 86.6% | O.Cl.COC(C(N1CC2=C(CC1)SC=C2)C2=C(C=CC=C2)Cl)=O | InChI=1S/C16H16ClNO2S.ClH.H2O/c1-20-16(19)15(12-4-2-3-5-13(12)17)18-8-6-14-11(10-18)7-9-21-14;;/h2-5,7,9,15H,6,8,10H2,1H3;1H;1H2
